US08247429B2
N-[2-(2-ethyl-8,9-dihydro-7H-cyclopenta[c]pyrazolo[1,5-a]pyridin-9-yl)ethyl]acetamide
A mixture of ethyl 9-(2-aminoethyl)-2-ethyl-8,9-dihydro-7H-cyclopenta[c]pyrazolo[1,5-a]pyridine-1-carboxylate (81.0 mg, 0.269 mmol) in 12M hydrochloric acid (3 mL) was stirred at 100° C. for 3 days, and the mixture was concentrated under reduced pressure. To a mixture of the residue and triethylamine (375 μL, 2.69 mmol) in tetrahydrofuran (2.7 mL) was added acetic anhydride (76.3 μL, 0.807 mmol) under ice-cooling, and the mixture was stirred at room temperature for 15 min. Water (50 μL) was added, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (methanol/ethyl acetate=0/100→5/95) to give the title compound (62.9 mg, yield 85%).

reactant | ethyl 9-(2-aminoethyl)-2-ethyl-8,9-dihydro-7H-cyclopenta[c]pyrazolo[1,5-a]pyridine-1-carboxylate | 0.269 mmol, 81.0 mg | NCCC1CCC2=C1C=1N(C=C2)N=C(C1C(=O)OCC)CC | C17H23N3O2
reactant | triethylamine | 2.69 mmol, 375 μL | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 0.807 mmol, 76.3 μL | C(C)(=O)OC(C)=O | C4H6O3
reactant | Water | 50 μL | O | H2O
solvent | hydrochloric acid | 12M, 3 mL | Cl | ClH
solvent | tetrahydrofuran | 2.7 mL | O1CCCC1 | C4H8O
product | N-[2-(2-ethyl-8,9-dihydro-7H-cyclopenta[c]pyrazolo[1,5-a]pyridin-9-yl)ethyl]acetamide | 62.9 mg, yield 85% | C(C)C1=NN2C(C3=C(C=C2)CCC3CCNC(C)=O)=C1 | C16H21N3O
